US08383636B2
The known method by T. Inaba, A. G. Birchler, Y. Yamada, S. Sagawa, K. Yokata, K. Ando and I. Uchida, J. Org. Chem., 1998, 63, 7582 for the preparation of the enantiomer of the title compound was followed. (S)-1-Phenylethanamine (30.4 ml, 236 mmol) and 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane (34 g, 236 mmol) were dissolved in iPrOH (16 ml) and heated under reflux for 16 h. The mixture was stirred and cooled in an ice bath. Hexanes (90 ml) was added. After 1 h the colourless crystalline solid was filtered off, washed with hexanes and dried to give (5S,6R)-2,2-dimethyl-6-((S)-1-phenylethylamino)-1,3-dioxepan-5-ol (21.9 g, 35%). The 1H NMR was in agreement with that described for the enantiomer of the title compound by T. Inaba, A. G. Birchler, Y. Yamada, S. Sagawa, K. Yokata, K. Ando and I. Uchida, J. Org. Chem., 1998, 63, 7582. [α]D 20 −96.6 (c, 1.01, MeOH). Lit. (T. Inaba, A. G. Birchler, Y. Yamada, S. Sagawa, K. Yokata, K. Ando and I. Uchida, J. Org. Chem., 1998, 63, 7582) [α]D 25 +96.2 (c 1.00, MeOH) for the enantiomer.

reactant | (S)-1-Phenylethanamine | 236 mmol, 30.4 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | 4,4-dimethyl-3,5,8-trioxabicyclo[5.1.0]octane | 236 mmol, 34 g | CC1(OCC2OC2CO1)C | C7H12O3
solvent | iPrOH | 16 ml | CC(C)O | C3H8O
product | (5S,6R)-2,2-dimethyl-6-((S)-1-phenylethylamino)-1,3-dioxepan-5-ol | 21.9 g, 35% | CC1(OC[C@H]([C@@H](CO1)O)N[C@@H](C)C1=CC=CC=C1)C | C15H23NO3
